US06197959B1
A solution of 2.07 g (3.36 mmol) of (3R,4R)-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-3-(1,2,3,4-tetrahydro-quinolin-7-ylmethoxy)-piperidine-1-carboxylic acid tert-butyl ester in 6 ml of acetonitrile was treated successively with 0.82 g (6.72 mmol, 2.0 equiv.) of N-2-chloroethyl acetamide, 0.53 g (5.04 mmol, 1.5 equiv.) of anhydrous sodium carbonate, and 0.056 g (0.34 mmol, 0.1 equiv.) of potassium iodide. This mixture was refluxed for 48 hours. Subsequently, it was poured into 100 ml of an ice/water mixture and extracted three times with 50 ml of ethyl acetate. The combined organic phases were washed three times with 20 ml of water, dried over magnesium sulphate, evaporated under reduced pressure and dried in a high vacuum. The thus-obtained crude product was separated on silica gel using ethyl acetate as the eluent and yielded 0.91 g (1.30 mmol, 39.2% of theory) of (3R,4R)-3-[1-(2-acetylamino-ethyl)-1,2,3,4-tetrahydro-quinolin-7-ylmethoxy]-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-piperidine-1-carboxylic acid tert-butyl ester as a yellow oil; MS: 702 (M+H)+.

reactant | (3R,4R)-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-3-(1,2,3,4-tetrahydro-quinolin-7-ylmethoxy)-piperidine-1-carboxylic acid tert-butyl ester | 3.36 mmol, 2.07 g | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](CC1)C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)OCC1=CC=C2CCCNC2=C1 | C37H48N2O6
reactant | N-2-chloroethyl acetamide | 6.72 mmol, 0.82 g, 2.0 equiv. | ClCCNC(C)=O | C4H8ClNO
reactant | sodium carbonate | 5.04 mmol, 0.53 g, 1.5 equiv. | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | 0.34 mmol, 0.056 g, 0.1 equiv. | [I-].[K+]
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
product | (3R,4R)-3-[1-(2-acetylamino-ethyl)-1,2,3,4-tetrahydro-quinolin-7-ylmethoxy]-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-piperidine-1-carboxylic acid tert-butyl ester | 1.30 mmol, 0.91 g, 39.2% | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](CC1)C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)OCC1=CC=C2CCCN(C2=C1)CCNC(C)=O | C41H55N3O7
